US06951855B2
A solution of 7-(4-methoxy-benzylsulfanyl)-2H-1,4-benzoxazin-3(4H)-one(150 mg; 0.5 mmol) in CH2Cl2 (2 ml) was treated with BBr3 (350 mg; 1.5 mmol). The mixture was stirred at room temperature overnight. After evaporation to dryness the residue was taken up in EtOAc and water. The organic phase was washed with water, brine and dried over MgSO4. The residue was triturated with EtOAc, filtered and dried to give 7-(4-hydroxybenzylsulfanyl)-2-H-1,4-benzoxazin-3(4H)-one as a beige solid (149 mg), Melting point 207-209° C. Yield: 100% 1H NMR spectrum (DMSO d6): 4.07(s, 2H); 4.56 (s, 2H); 6.68 (m, 2H); 6.81 (d, 1H); 6.91 (m, 2H); 7.11 (d, 2H); 9.35 (s, 1H); 10.72 (s, 1H). LCMS-ESI: 288 [MH]+

reactant | 7-(4-methoxy-benzylsulfanyl)-2H-1,4-benzoxazin-3(4H)-one | 0.5 mmol, 150 mg | COC1=CC=C(CSC2=CC3=C(NC(CO3)=O)C=C2)C=C1 | C16H15NO3S
reactant | BBr3 | 1.5 mmol, 350 mg | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-hydroxybenzylsulfanyl)-2-H-1,4-benzoxazin-3(4H)-one | 149 mg, Yield: 100% | OC1=CC=C(CSC2=CC3=C(NC(CO3)=O)C=C2)C=C1 | C15H13NO3S
